US04495194
Reaction of a mixture of 4-chloro-5-sulfamoylphthalimide (6.48 g., 0.025 mole) and 4-amino-1-(4-bromobenzyl)piperidine (6.7 g., 0.025 mole) in n-pentanol according to the procedure of Example 1(a) afforded the 1,3-dioxoisoindole product. Purification of the crude product by triturating with n-heptane and crystallization from DMF-methanol afforded 6.9 g. (54%) of 2-[1-[(4-bromophenyl)methyl]-4-piperidinyl]-6-chloro-2,3-dihydro-1,3-dioxo-1H-isoindole-5-sulfonamide, m.p. 246°-247° (dec.).

reactant | 4-chloro-5-sulfamoylphthalimide | 0.025 mole, 6.48 g | ClC=1C=C2C(C(=O)NC2=O)=CC1S(N)(=O)=O | C8H5ClN2O4S
reactant | 4-amino-1-(4-bromobenzyl)piperidine | 0.025 mole, 6.7 g | NC1CCN(CC1)CC1=CC=C(C=C1)Br | C12H17BrN2
solvent | n-pentanol | C(CCCC)O | C5H12O
product | 1,3-dioxoisoindole | O=C1NC(C2=CC=CC=C12)=O | C8H5NO2
